US05545652
A mixture of 4-(2,2,3,3-tetrafluoropropoxy)aniline (7.4 g), N-(2-bromoethyl)phthalimide (9.0 g), potassium bicarbonate (6.9 g), potassium iodide (5.5 g) and N,N-dimethylformamide (80 ml) are refluxed for 22 hours. The solvent was distilled off under reduced pressure. To the residue, ice-water (200 ml) and ethyl acetate (200 ml) were added and fractionated. The ethyl acetate layer was washed with water, dried over anhydrous magnesium sulfate and distilled off under reduced pressure. The residue was purified by silica gel chromatography (eluate; ethyl acetate:hexane=1:2 v/v) and recrystallized from ethyl acetate-diisopropyl ether to give N-(2-phthalimido)ethyl-4-(2,2,3,3-tetrafluoropropoxy)aniline (5.4 g) as white crystals.

reactant | 4-(2,2,3,3-tetrafluoropropoxy)aniline | 7.4 g | FC(COC1=CC=C(N)C=C1)(C(F)F)F | C9H9F4NO
reactant | N-(2-bromoethyl)phthalimide | 9.0 g | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | potassium bicarbonate | 6.9 g | C([O-])(O)=O.[K+]
reactant | potassium iodide | 5.5 g | [I-].[K+]
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | N-(2-phthalimido)ethyl-4-(2,2,3,3-tetrafluoropropoxy)aniline | 5.4 g | C1(C=2C(C(N1CCNC1=CC=C(C=C1)OCC(C(F)F)(F)F)=O)=CC=CC2)=O | C19H16F4N2O3
